US07951819B2
N-(5-(2-Amino-3-nitropyridin-4-yloxy)-2,4-difluorophenyl)-3-(trifluoromethoxy)benzamide
Method H was used with 4-(5-amino-2,4-difluorophenoxy)-3-nitropyridin-2-amine and 3-(trifluoromethoxy)benzoyl chloride to afford the title compound as a yellow solid (0.33 g, 88%). 1H NMR δ (DMSO): 6.09 (d, 1H, Hpy,5, J=5.5 Hz), 7.26 (bs, 2H, NH2), 7.7 (m, 3H, Harom), 7.90 (s, 1H, Harom,2′), 8.0 (d, 1H, Harom), 8.06 (d, 1H, Hpy,6, J=5.5 Hz), 10.4 (bs, 1H, NHamide). 19F NMR δ (DMSO): −56.78 (s, 1F, CF3), −118.54 (s, 1F, aromF), −129.58 (s, 1F, aromF).

reactant | 4-(5-amino-2,4-difluorophenoxy)-3-nitropyridin-2-amine | NC=1C(=CC(=C(OC2=C(C(=NC=C2)N)[N+](=O)[O-])C1)F)F | C11H8F2N4O3
reactant | 3-(trifluoromethoxy)benzoyl chloride | FC(OC=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O2
product | N-(5-(2-Amino-3-nitropyridin-4-yloxy)-2,4-difluorophenyl)-3-(trifluoromethoxy)benzamide | 0.33 g, 88% | NC1=NC=CC(=C1[N+](=O)[O-])OC=1C(=CC(=C(C1)NC(C1=CC(=CC=C1)OC(F)(F)F)=O)F)F | C19H11F5N4O5
